US06881733B1
cis-3-methyl-4-(5-fluorobenzofur-7-yl)piperidine hydrochloride
A solution of 0.48 gm (2.1 mMol) cis-3-methyl-4-(5-fluorobenzofur-7-yl)piperidine in 5 mL ethyl acetate was treated with 5.0 mL 1N hydrogen chloride in diethyl ether. The resulting slurry was stirred for 1.5 hours at 0° C. and was then filtered under reduced pressure. The solid was washed with diethyl ether and dried under reduced pressure to provide 0.50 gm (89%) of the title compound.

reactant | cis-3-methyl-4-(5-fluorobenzofur-7-yl)piperidine | 2.1 mMol, 0.48 gm | C[C@@H]1CNCC[C@@H]1C1=CC(=CC=2C=COC21)F | C14H16FNO
reactant | hydrogen chloride | 1N, 5.0 mL | Cl | ClH
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | cis-3-methyl-4-(5-fluorobenzofur-7-yl)piperidine hydrochloride | 0.50 gm, 89% | Cl.C[C@@H]1CNCC[C@@H]1C1=CC(=CC=2C=COC21)F | InChI=1S/C14H16FNO.ClH/c1-9-8-16-4-2-12(9)13-7-11(15)6-10-3-5-17-14(10)13;/h3,5-7,9,12,16H,2,4,8H2,1H3;1H/t9-,12+;/m1./s1
